US06479487B1
1-(3-(1-Piperidinyl)propyl)-4-piperidone oxime is prepared from 1-(3-(1-piperidinyl)propyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-(1-piperidinyl)propyl)-4-piperidone | N1(CCCCC1)CCCN1CCC(CC1)=O | C13H24N2O
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-(1-Piperidinyl)propyl)-4-piperidone oxime | N1(CCCCC1)CCCN1CCC(CC1)=NO | C13H25N3O
